US06759554B2
N-Formylindoline
A 15 mL resealable Schlenk tube was charged with CuI (9.6 mg, 0.0504 mmol, 5.0 mol %), N-formyl-2-(2-bromophenyl)ethylamine (229 mg, 1.00 mmol), K2CO3 (280 mg, 2.03 mmol), evacuated and backfilled with argon. trans-N,N′Dimethyl-1,2-cyclohexanediamine (16 μL, 0.102 mmol, 10 mol %) and toluene (1.0 mL) were added under argon. The Schlenk tube was sealed with a Teflon valve and the reaction mixture was stirred at 80° C. for 23 h. The resulting suspension was allowed to reach room temperature and then filtered through a 0.5×1 cm pad of silica gel eluting with 10 mL of ethyl acetate. The filtrate was concentrated and the residue was purified by flash chromatography on silica gel (2×10 cm, hexane-ethyl acetate 3:2, 15 mL fractions). Fractions 13-23 provided 145 mg (99% yield) of the desired product as a light yellow solid.

reactant | N-formyl-2-(2-bromophenyl)ethylamine | 1.00 mmol, 229 mg | C(=O)NCCC1=C(C=CC=C1)Br | C9H10BrNO
reactant | K2CO3 | 2.03 mmol, 280 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | trans-N,N′Dimethyl-1,2-cyclohexanediamine | 0.102 mmol, 16 μL | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
catalyst | CuI | 0.0504 mmol, 9.6 mg | [Cu]I
solvent | toluene | 1.0 mL | C1(=CC=CC=C1)C | C7H8
product | N-Formylindoline | 145 mg, 99% yield | C(=O)N1CCC2=CC=CC=C12 | C9H9NO
